US05461026
2-(1-Acetoxy-2-fluoroethyl)-3-pyridinesulfonamide
5.3 g of 2-(1-acetoxy-2-fluoroethyl)-N-t-butyl-3-pyridinesulfonamide is added to 20 ml of trifluoroacetic acid and allowed to stir at room temperature for 12 hours. The acid is evaporated and the residual oil is taken up in CH2Cl2. The solution is washed with sat. aq. NaHCO3, dried (MgSO4), evaporated and the crude solid product is crystallized from ethyl acetate and n-haxane; 3.1 g (Yield: 71%).

reactant | 2-(1-acetoxy-2-fluoroethyl)-N-t-butyl-3-pyridinesulfonamide | 5.3 g | C(C)(=O)OC(CF)C1=NC=CC=C1S(=O)(=O)NC(C)(C)C | C13H19FN2O4S
solvent | trifluoroacetic acid | 20 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 2-(1-Acetoxy-2-fluoroethyl)-3-pyridinesulfonamide | Yield: 71% | C(C)(=O)OC(CF)C1=NC=CC=C1S(=O)(=O)N | C9H11FN2O4S
